US04954518
1.06 ml of acetic anhydride was added to 2.0 g of methyl 2-hydroxy-4-methylsulfonylamino-5-(2,4-difluorophenoxy)phenyl ketone and 550 mg of sodium acetate. The mixture was refluxed for 1 hour. The reaction mixture was introduced into a mixture of 50 ml of ethyl acetate and 50 ml of water. The organic layer was separated and washed with water. The solvent was removed by distillation under reduced pressure. The residue was dissolved in 20 ml of ethanol. 12 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed for 10 minutes. The reaction mixture was introduced into a mixture of 50 ml of ethyl acetate and 50 ml of water. The resulting mixture was adjusted to pH 2.0 with 4N hydrochloric acid. The organic layer was separated, washed with water, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a 10 : 1 mixture of toluene and ethyl acetate) to obtain 300 mg (yield: 14.4%) of 7-methylsulfonylamino-2-methyl-6-(2,4-difluorophenoxy)-4H-1-benzopyran-4-one.

reactant | acetic anhydride | 1.06 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 2-hydroxy-4-methylsulfonylamino-5-(2,4-difluorophenoxy)phenyl ketone | 2.0 g | OC1=C(C=C(C(=C1)NS(=O)(=O)C)OC1=C(C=C(C=C1)F)F)C(=O)C | C15H13F2NO5S
reactant | sodium acetate | 550 mg | C(C)(=O)[O-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 7-methylsulfonylamino-2-methyl-6-(2,4-difluorophenoxy)-4H-1-benzopyran-4-one | 300 mg, yield: 14.4% | CS(=O)(=O)NC1=CC2=C(C(C=C(O2)C)=O)C=C1OC1=C(C=C(C=C1)F)F | C17H13F2NO5S
